US05180400
Synthesis of Methyl N-(2,3-Dimethyl-5-Nitrophenyl)Formimidate
66.4 g of 2,3-dimethyl-5-nitroaniline, 0.4 liter of trimethyl orthoformate and 1.6 g of paratoluenesulphonic acid are mixed and the mixture is refluxed for 3 hours.

reactant | 2,3-dimethyl-5-nitroaniline | 66.4 g | CC1=C(N)C=C(C=C1C)[N+](=O)[O-] | C8H10N2O2
reactant | paratoluenesulphonic acid | 1.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | trimethyl orthoformate | 0.4 liter | C(OC)(OC)OC | C4H10O3
product | Methyl N-(2,3-Dimethyl-5-Nitrophenyl)Formimidate | CC1=C(C=C(C=C1C)[N+](=O)[O-])N=COC | C10H12N2O3
